US09328118B2
2-(1-Methylpiperidin-4-yl)ethanamine (93 mg) and N,N-diisopropylethylamine (0.22 mL) were added to a mixture of 4-[4-fluoro-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (100 mg) and N-methylpyrrolidone (2 mL), and the mixture was stirred at 140° C. for 1 hour under microwave irradiation. After the reaction mixture was cooled to room temperature, the reaction mixture was purified by silica gel column chromatography (CHCl3:MeOH=98:2 to 85:15), whereby 4-[4-{[2-(1-methylpiperidin-4-yl)ethyl]amino}-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (66 mg) was obtained as a white solid.

reactant | 2-(1-Methylpiperidin-4-yl)ethanamine | 93 mg | CN1CCC(CC1)CCN | C8H18N2
reactant | N,N-diisopropylethylamine | 0.22 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-[4-fluoro-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 100 mg | FC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)NC=C2)C(F)(F)F | C14H6F4N4
solvent | N-methylpyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[4-{[2-(1-methylpiperidin-4-yl)ethyl]amino}-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 66 mg | CN1CCC(CC1)CCNC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)NC=C2)C(F)(F)F | C22H23F3N6
